US05616669
1) Preparation of 2-propargyloxy-2-phenyl-3-butyne
Propargyl bromide (22 g, 0.15 mol) was dissolved in 140 ml of n-hexane. This solution, 2-phenyl-3-butyne-2-ol (14.6 g, 0.1 mol), NaOH (60 g, 1.5 mol) and a catalytic amount of tetrabutyl ammonium hydrogen sulfate/water (120 ml) were mixed, reacted for 24 hours at an ambient temperature and refluxed for 30 minutes. After completion of the reaction, the mixture was cooled to an ambient temperature and water (100 ml) was added. The organic phase was extracted with 30 ml of n-hexane, three times. The extracted organic solvent was dried with anhydrous magnesium sulfate, filtered and evaporated to separate. b.p.: 61° C./0.5 mmHg; yield: 65%; MS: m/e 184 (parent), 129 (base).

reactant | Propargyl bromide | 0.15 mol, 22 g | C(C#C)Br | C3H3Br
reactant | 2-phenyl-3-butyne-2-ol | 0.1 mol, 14.6 g | C1(=CC=CC=C1)C(C)(C#C)O | C10H10O
reactant | NaOH | 1.5 mol, 60 g | [OH-].[Na+]
reactant | tetrabutyl ammonium hydrogen sulfate water | 120 ml | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.O
solvent | n-hexane | 140 ml | CCCCCC | C6H14
solvent | water | 100 ml | O | H2O
product | 2-propargyloxy-2-phenyl-3-butyne | yield: 65% | C(C#C)OC(C)(C#C)C1=CC=CC=C1 | C13H12O
